US07652049B2
(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(2′-chloro-5′-isopropyl-4-nitrobiphenyl-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one
To a solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-(2-bromo-5-nitrobenzyl)-4-methyl-1,3-oxazolidin-2-one (950 mg, 1.80 mmol) in a toluene (5.2 mL): ethanol (2.6 mL): water (1.3 mL) mixture was added (2-chloro-5-isopropylphenyl) boronic acid (325 mg, 1.64 mmol), tetrakis(triphenylphosphine)palladium(0) (188 mg, 10 mol %) and sodium carbonate (346 mg, 3.26 mmol). The resulting mixture was heated in an 80° C. oil bath for 12 h. The reaction crude was evaporated into dryness. The resulting residue was taken up by a mixture of water and EtOAc. The combined organic extracts were dried over Na2SO4 and concentrated in vacuo to give the crude product, which was purified by SiO2 (Biotage 40+S cartridge, EtOAc/hexane, gradient) to afford the titled compound. LC-MS: 601.19 (M+1)+. 1H NMR (CDCl3, 500 MHz) a 1:1 mixture of rotamers δ 8.31-8.30 (m, 1H), 8.24-8.28 (m, 1H), 7.85-7.89 (m, 1H), 7.68-7.76 (m, 2H), 7.42-7.48 (m, 2H), 7.26-7.30 (m, 1H), 7.04-7.11 (m, 1H), 5.74 (d, J=7.8 Hz, 0.5H), 5.58 (d, J=8.0 Hz, 0.5H), 4.92 (d, J=15.8 Hz, 0.5H), 4.76 (d, J=16.2 Hz, 0.5H), 3.97-4.04 (m, 1.5H), 3.82 (dt, J=8.0, 6.6 Hz, 0.5H), 2.89-2.99 (m, 1H) 1.22-1.29 (m, 6H), 0.60 (d, J=6.4 Hz, 1.5H), 0.52 (d, J=6.6 Hz, 1.5H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-(2-bromo-5-nitrobenzyl)-4-methyl-1,3-oxazolidin-2-one | 1.80 mmol, 950 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)[N+](=O)[O-])Br)C)(F)F | C19H13BrF6N2O4
reactant | toluene | 5.2 mL | C1(=CC=CC=C1)C | C7H8
reactant | (2-chloro-5-isopropylphenyl) boronic acid | 1.64 mmol, 325 mg | ClC1=C(C=C(C=C1)C(C)C)B(O)O | C9H12BClO2
reactant | sodium carbonate | 3.26 mmol, 346 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 188 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 1.3 mL | O | H2O
solvent | ethanol | 2.6 mL | C(C)O | C2H6O
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(2′-chloro-5′-isopropyl-4-nitrobiphenyl-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)[N+](=O)[O-])C1=C(C=CC(=C1)C(C)C)Cl)C)(F)F | C28H23ClF6N2O4
